US06384069B1
1,1-Cyclohexanediacetic acid monomethyl ester is converted via the corresponding acid chloride into the azide. The azide is degraded by the Curtius method to the isocyanate. The isocyanate is then hydrolyzed to give methyl 1-aminomethyl-1-cyclohexaneacetate. Heating this substance in alkaline methanol under reflux for three days affords 8-azaspiro[5,4]decan-9-one or gabapentin lactam.

reactant | 1,1-Cyclohexanediacetic acid monomethyl ester | COC(CC1(CCCCC1)CC(=O)O)=O | C11H18O4
reactant | azide | [N-]=[N+]=[N-]
reactant | isocyanate | [N-]=C=O
product | methyl 1-aminomethyl-1-cyclohexaneacetate | NCC1(CCCCC1)CC(=O)OC | C10H19NO2
